US07501529B2
A flame-dried, 25 mL round-bottomed flask equipped with a Teflon-coated magnetic bar and a septum with an argon inlet was charged with 270 mg (1.10 mmol) of 2,4,9-Trithia-tricyclo[3.3.1.13,7]decane-7-carboxylic acid methyl ester and 5 mL of dry toluene. Cooled by an ice bath, the solution was charged with 1.60 mL of 1.5 M (2.3 mmol) diisobutyl aluminum hydride in hexane. The solution was stirred at 0° C. until the complete consumption of the starting material was observed (monitored by TLC). The solution was quenched by 2 mL of methanol and allowed to warm to the ambient temperature. The filtration through a celite filter cake gave 240 mg (97%) of 7-hydroxymethyl-2,4,9-trithiaadamantane.

reactant | 2,4,9-Trithia-tricyclo[3.3.1.13,7]decane-7-carboxylic acid methyl ester | 1.10 mmol, 270 mg | COC(=O)C12CC3SC(SC(C1)S3)C2 | C9H12O2S3
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutyl aluminum hydride | 2.3 mmol, 1.5 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | hexane | CCCCCC | C6H14
product | 7-hydroxymethyl-2,4,9-trithiaadamantane | 240 mg, 97% | OCC12CC3SC(SC(C1)S3)C2 | C8H12OS3
